US03975531
7-(4-Chlorobenzoyl)-3-methylthioindolin-2-one.
A solution of 23.1 g. (0.1 mole) of 2-amino-4'-chlorobenzophenone in 400 ml. of methylene chloride was cooled to -65°C. and treated dropwise with 12.4 g. (0.1 mole) of t-butyl hypochlorite. After 15 min., 13.4 g. of ethyl α-(methylthio)acetate (0.1 mole) was added dropwise maintaining -65°C. temperature. After 11/2 hr. 10.1 g. of triethylamine (0.1 mole) was added and the reaction mixture allowed to come to room temperature. The solution was then washed with water and stripped. The residue was taken into methanol and brought to reflux at which time lN hydrochloric acid was added and the resulting mixture refluxed overnight. The mixture was cooled, resulting precipitate filtered off and recrystallized from toluene, giving 10 g. of a cream colored solid. The product (33% yield) melted at 186°-188°C.

reactant | 2-amino-4'-chlorobenzophenone | 0.1 mole | NC1=C(C(=O)C2=CC=C(C=C2)Cl)C=CC=C1 | C13H10ClNO
reactant | t-butyl hypochlorite | 0.1 mole | ClOC(C)(C)C | C4H9ClO
reactant | ethyl α-(methylthio)acetate | 0.1 mole | CSCC(=O)OCC | C5H10O2S
reactant | triethylamine | 0.1 mole | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-(4-Chlorobenzoyl)-3-methylthioindolin-2-one | 33% yield | ClC1=CC=C(C(=O)C=2C=CC=C3C(C(NC23)=O)SC)C=C1 | C16H12ClNO2S
